US09056874B2
a) (±)-2-((5-(Ethoxymethyl)-7-methyl-1H-indol-4-yl)(hydroxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile
To a solution of 2-(hydroxy(7-methyl-5-(phenoxymethyl)-1-tosyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile (130 mg, 0.23 mmol) in EtOH (3 mL), isoamylamine (101 mg, 1.15 mmol), and KOH (64.8 mg, 1.15 mmol) were added and the reaction stirred at 100° C. for 1.5 h under microwave irradiation. The reaction mixture was diluted with CH2Cl2 filtered through SiO2. The SiO2 cake was washed with a mixture of CH2Cl2/MeOH (c.a. 6/1). The organic solution was concentrated and purified by RP-HPLC (HC-A) to give the title compound. 1H NMR (400 MHz, ACETONITRILE-d3 with about 5 μL TFA) δ ppm 9.45 (br. s., 1H), 8.08 (s, 1H), 7.79 (d, J=8.60 Hz, 1H), 7.75 (dd, J=1.30, 8.60 Hz, 1H), 7.25 (dd, J=2.80, 3.00 Hz, 1H), 7.02 (s, 1H), 6.76 (s, 1H), 6.62 (dd, J=2.02, 3.03 Hz, 1H), 4.80 (d, J=10.86 Hz, 1H), 4.63 (d, J=10.86 Hz, 1H), 3.56-3.73 (m, 2H), 2.48 (s, 3H), 1.13 (t, J=6.95 Hz, 3H). HRMS calcd. for C21H20N4O2 (M+H)+ 361.1665. found 361.1658.

reactant | 2-(hydroxy(7-methyl-5-(phenoxymethyl)-1-tosyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.23 mmol, 130 mg | OC(C1=NC2=C(N1)C=CC(=C2)C#N)C2=C1C=CN(C1=C(C=C2COC2=CC=CC=C2)C)S(=O)(=O)C2=CC=C(C)C=C2 | C32H26N4O4S
reactant | isoamylamine | 1.15 mmol, 101 mg | C(CC(C)C)N | C5H13N
reactant | KOH | 1.15 mmol, 64.8 mg | [OH-].[K+]
solvent | EtOH | 3 mL | CCO | C2H6O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (±)-2-((5-(Ethoxymethyl)-7-methyl-1H-indol-4-yl)(hydroxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | C(C)OCC=1C(=C2C=CNC2=C(C1)C)C(C1=NC2=C(N1)C=CC(=C2)C#N)O | C21H20N4O2
